** sch_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/lc-vco/LC_VCO_tb.sch
**.subckt LC_VCO_tb FOUT VCTRL
*.opin FOUT
*.ipin VCTRL
VBGR VBGR GND 0.6
x1 VDD VCTRL GND FOUT VBGR LC_VCO
V1 VDD GND 1.2
Vup VCTRL GND PULSE(0.4 0.8 10n 90n 1n 1s 2s)
**** begin user architecture code



.param temp = 27
.options method=gear rshunt=1.0e12

.control

* Save required signals
save v(VCTRL) v(FOUT) v(x1.Vx) v(x1.OUTp)

* Long transient simulation
tran 10p 500n 100n

* Save raw waveform
write tb_LC_VCO_tran.raw

* Plot transient waveform
let vout = v(FOUT)
plot v(VCTRL) v(x1.Vx) v(FOUT) v(x1.OUTp)

* Plot steady-state waveform
plot v(VCTRL) v(x1.Vx) v(FOUT) v(x1.OUTp) xlimit 400n 405n

* FFT analysis
setplot tran1
linearize vout
set specwindow=blackman
fft vout

* Plot FFT spectrum
let power_out_db = db(vout)
plot power_out_db xlimit 2.34G 2.54G ylimit -200 0

* Find the maximum magnitude value between 2G and 3G
meas sp max_power_out_db max power_out_db FROM=2G TO=3G

* Save FFT spectrum as raw file
write LC_VCO_fft.raw

* Save FFT data
wrdata fft_output_standalone.txt frequency power_out_db

* Save waveform for external processing
wrdata vco_waveform_standalone.txt power_out_db

.endc





.param temp=27
.control
save all
op
write LC_VCO_tb.raw
.endc



.include 4nH_INDUCTOR.spice


.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ

**** end user architecture code
**.ends

* expanding   symbol:  xschem/lc-vco/LC_VCO.sym # of pins=5
** sym_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/lc-vco/LC_VCO.sym
** sch_path: /foss/designs/unicasss-tools/frac-n-pll-vco-unic_cass/xschem/lc-vco/LC_VCO.sch
.subckt LC_VCO VDD VCTRL GND FOUT VBGR
*.opin FOUT
*.ipin VCTRL
*.ipin VBGR
*.iopin VDD
*.iopin GND
XM5 Vx Vgs GND GND sg13_lv_nmos w=384u l=1u ng=48
XM4 OUTp OUTn VDD VDD sg13_lv_pmos w=36u l=0.13u ng=5
XM3 OUTn OUTp VDD VDD sg13_lv_pmos w=36u l=0.13u ng=5
XM2 OUTp OUTn Vx GND sg13_lv_nmos w=22u l=0.13u ng=3
XM1 OUTn OUTp Vx GND sg13_lv_nmos w=22u l=0.13u ng=3
XM6 Vgs Vgs GND GND sg13_lv_nmos w=64u l=1u ng=8
XC1 OUTn OUTp GND cap_rfcmim w=21.9e-6 l=21.9e-6 wfeed=10.0e-6
XC3 OUTp VCTRL OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
XC2 OUTp VCTRL OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
XM7 Vgs VBGR VDD VDD sg13_lv_pmos w=38u l=1u ng=5
XM8 FOUT OUTp VDD VDD sg13_lv_pmos w=15u l=0.13u ng=10
XM9 FOUT OUTp GND GND sg13_lv_nmos w=1.5u l=0.13u ng=1
XM10 net1 OUTn VDD VDD sg13_lv_pmos w=15u l=0.13u ng=10
XM11 net1 OUTn GND GND sg13_lv_nmos w=1.5u l=0.13u ng=1
x2 OUTn OUTp 4nH_INDUCTOR
.ends

.GLOBAL GND
.GLOBAL VDD
.end
